US08426447B2
A resealable tube was charged with 3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine (0.500 g, 1.092 mmol), tetrakis(triphenylphosphine)palladium (0.126 g, 0.109 mmol) and copper iodide (0.021 g, 0.109 mmol). THF (2.183 mL, 1.092 mmol) was added followed by 2-methylbut-3-yn-2-ol (0.138 g, 1.637 mmol) and diisopropylamine (1.556 mL, 10.92 mmol). The reaction vessel was sealed and stirred at rt for 12 hours. The reaction was diluted with water (25 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide 4,4′-(-2′-aminospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazole]-3,7-diyl)bis(2-methyl-3-butyn-2-ol) (60 mg, 0.144 mmol, 13.17% yield) 104420-10-42 as a yellow film. MS m/z=418.2 [M+H]+. Calc'd for C24H24N3O4: 418.2.

reactant | 3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine | 1.092 mmol, 0.500 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C21N=C(OC1)N)I | C14H9BrIN3O2
reactant | THF | 1.092 mmol, 2.183 mL | C1CCOC1 | C4H8O
reactant | 2-methylbut-3-yn-2-ol | 1.637 mmol, 0.138 g | CC(C)(C#C)O | C5H8O
reactant | diisopropylamine | 10.92 mmol, 1.556 mL | C(C)(C)NC(C)C | C6H15N
reactant | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.109 mmol, 0.126 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.109 mmol, 0.021 g | [Cu](I)I
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4,4′-(-2′-aminospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazole]-3,7-diyl)bis(2-methyl-3-butyn-2-ol) | 0.144 mmol, 60 mg, 13.17% yield | NC=1OCC2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(O)C)C#CC(C)(O)C | C24H23N3O4
